US07232821B2
5-{2-[Trifluoromethyl-2-(benzyloxy)phenyl]cyclopent-1-enyl}nicotinic acid N-oxide
3-Chloroperbenzoic acid (25 mg, 0.11 mmol) was added to a solution of 5-{2-[trifluoromethyl-2-(benzyloxy)phenyl]cyclopent-1-enyl}nicotinic acid (44 mg, 0.1 mmol) in dioxan (2 ml) and left overnight at room temperature. The resulting mixture was evaporated to dryness and purified by preparative mass directed chromatography to give the title compound as an off-white solid (8 mg, 18%).

reactant | 3-Chloroperbenzoic acid | 0.11 mmol, 25 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 5-{2-[trifluoromethyl-2-(benzyloxy)phenyl]cyclopent-1-enyl}nicotinic acid | 0.1 mmol, 44 mg | FC(F)(F)C=1C(=C(C=CC1)C1=C(CCC1)C=1C=NC=C(C(=O)O)C1)OCC1=CC=CC=C1 | C25H20F3NO3
solvent | dioxan | 2 ml | O1CCOCC1 | C4H8O2
product | 5-{2-[Trifluoromethyl-2-(benzyloxy)phenyl]cyclopent-1-enyl}nicotinic acid N-oxide | 8 mg, 18% | FC(F)(F)C=1C(=C(C=CC1)C1=C(CCC1)C=1C=[N+](C=C(C(=O)O)C1)[O-])OCC1=CC=CC=C1 | C25H20F3NO4
